US07538114B2
Synthesis of (3R)-3-methyl-1-(phenyl(3-(trifluoromethyl)phenyl)-methyl)piperazine
To a solution of (R)-(−)-2-methylpiperazine (2.2 g, 22 mmol) in CH3CN (20 mL) was added 1-(chloro(phenyl)methyl)-3-(trifluoromethyl)benzene (2.0 g, 7.4 mmol) and heated to 100° C. for 12 h and concentrated under vacuum. The residue was dissolved in CH2Cl2 (150 mL) and washed with 1N NaOH (150 mL). The organic layer was dried with K2CO3 or Na2SO4, filtered, and concentrated. The crude product was purified by ISCO using 0-20% 2N NH3/MeOH solution in CH2Cl2 to give the title compound (2.00 g, 81% yield) as oil. MS (ESI, pos. ion) m/z: 335.1 (M+1).

reactant | (R)-(−)-2-methylpiperazine | 22 mmol, 2.2 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 1-(chloro(phenyl)methyl)-3-(trifluoromethyl)benzene | 7.4 mmol, 2.0 g | ClC(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C14H10ClF3
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (3R)-3-methyl-1-(phenyl(3-(trifluoromethyl)phenyl)-methyl)piperazine | 2.00 g, 81% yield | C[C@@H]1CN(CCN1)C(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C19H21F3N2
